US06699993B1
Propionitrile (656 ml), 2,3-dichloro-5-trifluoromethylpyridine (87.5 g) and 4-dimethylaminopyridine (52 g) were heated at reflux for 5 hours under nitrogen. The mixture was cooled and a solution of sodium cyanide (30 g) in water (110 ml) added at 15° C. After stirring at 15° C. for 5 hours the reaction was complete and water (250 ml) added to dissolve the inorganic salts. The organic phase was washed with water followed by extraction with 2N HCl to remove 4-dimethylaminopyridine. Propionitrile was removed by vacuum distillation at 40° C. to give the product, 3-chloro-2-cyano-5-trifluoromethylpyridine in 73 to 84% yield.

reactant | Propionitrile | 656 ml | C(CC)#N | C3H5N
reactant | 2,3-dichloro-5-trifluoromethylpyridine | 87.5 g | ClC1=NC=C(C=C1Cl)C(F)(F)F | C6H2Cl2F3N
reactant | sodium cyanide | 30 g | [C-]#N.[Na+]
catalyst | 4-dimethylaminopyridine | 52 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | water | 110 ml | O | H2O
solvent | water | 250 ml | O | H2O
product | 3-chloro-2-cyano-5-trifluoromethylpyridine | 73 to 84% yield | ClC=1C(=NC=C(C1)C(F)(F)F)C#N | C7H2ClF3N2
